US09056859B2
Step B: 5-(2-oxopropyl)-2-benzofuran-1(3H)-one
To a solution of 5-(2-methylprop-2-en-1-yl)-2-benzofuran-1(3H)-one (175 mg, 0.930 mmol) in THF was added osmium tetroxide (295 mg, 0.0460 mmol) and the mixture was stirred for 10 minutes. Then a solution of sodium periodate (497 mg, 2.32 mmol) in water was added and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated, diluted with DCM, and washed with Na2S2O3 solution. The organic layer was dried over MgSO4, filtered, and concentrated. The crude product was purified by flash chromatography (30% ether/hexanes) to afford the title compound. LC-MS (IE, m/z): 191.3 [M+1]+.

reactant | 5-(2-methylprop-2-en-1-yl)-2-benzofuran-1(3H)-one | 0.930 mmol, 175 mg | CC(CC1=CC2=C(C(OC2)=O)C=C1)=C | C12H12O2
reactant | sodium periodate | 2.32 mmol, 497 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | osmium tetroxide | 0.0460 mmol, 295 mg | [Os](=O)(=O)(=O)=O
product | 5-(2-oxopropyl)-2-benzofuran-1(3H)-one | O=C(CC1=CC2=C(C(OC2)=O)C=C1)C | C11H10O3
